US06015868
Preparation of (2-methyl-4-phenylindenyl)(t-butylamino)dimethylsilane
2-methyl-4-phenylindene (synthesized substantially according to the technique reported in U.S. Pat. No. 5,329.033) (3.00 g, 0.014 moles) in THF (10 mL) was added dropwise to a stirring solution of KH (0.601 g, 0.0150 moles) in THF (50 mL). This mixture was allowed to stir for 16 hours. The solution was then filtered and added dropwise to a solution of dimethylsilyl(t-butylamino)chloride (2.41 g, 0.0145 moles) in THF (75 mL). This mixture was allowed to stir for 16 hours. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. Removal of the volatiles resulted in the isolation of the desired product as a light yellow oil (4.00 g, 82.0 percent).

reactant | 2-methyl-4-phenylindene | CC=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C16H14
reactant | dimethylsilyl(t-butylamino)chloride | 0.0145 moles, 2.41 g | C[SiH](C)N(C(C)(C)C)Cl | C6H16ClNSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (2-methyl-4-phenylindenyl)(t-butylamino)dimethylsilane | 4.00 g, 82.0 percent | CC=1C(C2=CC=CC(=C2C1)C1=CC=CC=C1)[Si](C)(C)NC(C)(C)C | C22H29NSi
